US05011947
1,1-Dimethylethyl 8-ethyl-9,9-bis(4-fluorophenyl)-5-hydroxy-3-oxo-6,8-nondienoate)
The dianion of 1,1-dimethylethyl acetoacetate (20 mL of 0.5 M solution, 10 mmol) was added to a solution of 4-ethyl- 5,5-bis-(4-fluorophenyl)-2,4-pentadienal (2.0 g, 6.7 mmol) in 20 mL of tetrahydrofuran at -70° C. The mixture was stirred for 3 hours during which time the temperature was allowed to rise to -30° C. and quenched with saturated ammonium chloride solution. The mixture was extracted with diethyl ether, the extracts dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 10% ethyl acetate in hexane to give 2.2 g of the title compound as an oil. MS(CI): m/e =456 for M+ of C27H30F2O4.

reactant | 1,1-dimethylethyl acetoacetate | 10 mmol, 0.5 M, 20 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 4-ethyl- 5,5-bis-(4-fluorophenyl)-2,4-pentadienal | 6.7 mmol, 2.0 g | C(C)C(C=CC=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H16F2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 8-ethyl-9,9-bis(4-fluorophenyl)-5-hydroxy-3-oxo-6,8-nondienoate | 2.2 g | C(C)C(C=CC(CC(CC(=O)OC(C)(C)C)=O)O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C27H30F2O4
